US05824690
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Combine 4-phenyl-piperidine-4-carboxylic acid-amide hydrochloride (0.5 g, 2.1 mmol), 1-(3,4,5-trimethoxybenzyl)-3-(3,4-dichloro-phenyl)-3-(2-oxo-ethyl)-pyrrolidine (0.23 g, 0.53 mmol), and titanium(IV) isopropoxide (0.2 g, 0.7 mmol) in methanol (5 mL). Add a solution of sodium cyanoborohydride in tetrahydrofuran (0.9 mL, 1M, 0.9 mmol). After 18 hours, a precipitate had formed. Filter, rinse with methanol and dichloromethane, and evaporate the filtrate to give a residue. Combine residue with dichloromethane and an aqueous 2M solution of potassium hydroxide. Separate the layers, extract the aqueous layer with dichloromethane, combine the organic layers, dry over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with ethyl acetate, dichloromethane/methanol/concentrated ammonia (196/4/0.2), dichloromethane/methanol/concentrated ammonia (242/8/0.4), and then dichloromethane/methanol/concentrated ammonia (238/12/0.6) to give the title compound. Elemental Analysis calculated for C34H43 Cl2N3O4.0.4 H2O: C 64.52; H 6.64; N 6.64. Found C 64.15; H 6.33; N 6.67.

reactant | 4-phenyl-piperidine-4-carboxylic acid-amide hydrochloride | 2.1 mmol, 0.5 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
reactant | 1-(3,4,5-trimethoxybenzyl)-3-(3,4-dichloro-phenyl)-3-(2-oxo-ethyl)-pyrrolidine | 0.53 mmol, 0.23 g | COC=1C=C(CN2CC(CC2)(CC=O)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C22H25Cl2NO4
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | tetrahydrofuran | 0.9 mmol, 1M, 0.9 mL | O1CCCC1 | C4H8O
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | titanium(IV) isopropoxide | 0.7 mmol, 0.2 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | dichloromethane methanol | ClCCl.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C34H41Cl2N3O4
